US07863292B2
b) 4-Hydroxy-1-pyridin-2-yl-isoquinoline-3-carboxylic acid butyl ester
Synthesized from 4-Benzyloxy-1-pyridin-2-yl-isoquinoline-3-carboxylic acid butyl ester in analogy to example D-153 b); MS-(−)-ion M−1=321.4.

reactant | 4-Benzyloxy-1-pyridin-2-yl-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)C1=NC=CC=C1 | C26H24N2O3
reactant | D-153 | C=1C=CC(=CC1)C(C=2C=CC=CC2)[C@H]3CC([C@H](CO3)NCC=4C=CC(=CC4)F)O | C25H26FNO2
product | 4-Hydroxy-1-pyridin-2-yl-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)C1=NC=CC=C1 | C19H18N2O3
